US07153878B2
A mixture of 6-Chloro-nicotinonitrile (7.26 g, 52.4 mmol) and 2-fluorophenyl boronic acid (11 g, 78.6 mmol) and Na2CO3 (11 g, 103 mmol) in toluene (200 mL) and water (10 mL) is degassed and filled with nitrogen for three times, then Pd(PPh3)4 (0.73 g) is added under nitrogen. The reaction mixture is heated at 90° C. After 12 hrs, the reaction mixture is cooled to room temperature, diluted with ethyl acetate, washed with water, dried, concentrated. Column chromatography on silica gel (Hexane/ethyl acetate as eluent) gave 9.8 g of 6-(2-Fluoro-phenyl)-nicotinonitrile.

reactant | 6-Chloro-nicotinonitrile | 52.4 mmol, 7.26 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 2-fluorophenyl boronic acid | 78.6 mmol, 11 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 103 mmol, 11 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
product | 6-(2-Fluoro-phenyl)-nicotinonitrile | 9.8 g | FC1=C(C=CC=C1)C1=NC=C(C#N)C=C1 | C12H7FN2
